US07855211B2
4-(6-Nitro-pyridin-3-yloxy)-piperidine-1-carboxylic acid tert-butyl ester
Add potassium tert-butoxide (4.84 g) to a solution of tert-butyl 4-hydroxy-1-piperidine-carboxylate (8.76 g) in dimethylacetamide (DMA, 39 mL) at 0° C. under nitrogen. Stir for 1 h and add drop wise a solution 5-fluoro-2-nitro-pyridine (5 g) in DMA (78 mL). Let the reaction stir at RT overnight. Add water and stand for 1 h. Filter, wash with water. Purify by silica gel column chromatography eluting with DCM/EA (0-15%) to afford 5.65 g of the title compound. MS (ES+): m/z=324 (M+H)+.

reactant | potassium tert-butoxide | 4.84 g | CC(C)([O-])C.[K+]
reactant | tert-butyl 4-hydroxy-1-piperidine-carboxylate | 8.76 g | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | 5-fluoro-2-nitro-pyridine | 5 g | FC=1C=CC(=NC1)[N+](=O)[O-] | C5H3FN2O2
reactant | water | O | H2O
solvent | dimethylacetamide | 39 mL | CC(=O)N(C)C | C4H9NO
solvent | DMA | 78 mL | CC(=O)N(C)C | C4H9NO
product | 4-(6-Nitro-pyridin-3-yloxy)-piperidine-1-carboxylic acid tert-butyl ester | 5.65 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1C=NC(=CC1)[N+](=O)[O-] | C15H21N3O5
